US07495018B2
4-[4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazol-5-yl]-2-pyridylmethanol
To a solution of 4-[4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazol-5-yl]pyridine N-oxide (0.43 g, 1.0 mmol) in methylene chloride (10 mL) was added trimethyloxonium tetrafluoroborate (0.17 g, 1.2 mmol), and the mixture was stirred for 2 hours. The reaction mixture was concentrated under reduced pressure, and methanol (15 mL) was added to the residue. To the mixture was added a solution of ammonium persulfate (0.05 g, 0.22 mmol) in water (1 mL) under reflux, and the mixture was heated to reflux for 30 minutes. A solution of ammonium persulfate (0.03 g, 0.11 mmol) in water. (1 mL) was added to the reaction mixture, and the mixture was further heated to reflux for 13 hours. The reaction mixture was cooled to room temperature, then, concentrated under reduced pressure. To the residue was added an aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extracts were washed with brine, dried over magnesium sulfate, and filtrated and concentrated under reduced pressure. The residued was purified by column chromatography (filler: Chromatorex NH DM1020 (trade name, manufactured by Fuji Silysia Chemical Ltd.), ethyl acetate) to obtain a title compound (0.26 g, yield 61%).

reactant | 4-[4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazol-5-yl]pyridine N-oxide | 1.0 mmol, 0.43 g | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC=[N+](C=C1)[O-])C1=CC=C(C=C1)S(=O)(=O)C | C22H18N2O3S2
reactant | trimethyloxonium tetrafluoroborate | 1.2 mmol, 0.17 g | F[B-](F)(F)F.C[O+](C)C
reactant | ammonium persulfate | 0.22 mmol, 0.05 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium persulfate | 0.11 mmol, 0.03 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1 mL | O | H2O
product | 4-[4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazol-5-yl]-2-pyridylmethanol | 0.26 g, yield 61% | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)CO)C1=CC=C(C=C1)S(=O)(=O)C | C23H20N2O3S2
